US04374060
Following the procedure of Example 2 using 73.37 grams of BOC-Phe-N-Me-Ala-Tyr-OMe in 500 ml of ethylacetate and hydrogen chloride gas there is obtained 3 crops of "Phe-N-Me-Ala-Tyr-OMe" as follows:

reactant | BOC-Phe-N-Me-Ala-Tyr-OMe | 73.37 grams | N([C@@H](CC1=CC=CC=C1)C(=O)N([C@@H](C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC)C)C(=O)OC(C)(C)C | C28H37N3O7
solvent | ethylacetate | 500 ml | C(C)OC(C)=O | C4H8O2
solvent | hydrogen chloride | Cl | ClH
product | Phe-N-Me-Ala-Tyr-OMe | N[C@@H](CC1=CC=CC=C1)C(=O)N([C@@H](C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC)C | C23H29N3O5
